US06846819B1
a) 3-(1,3-Dioxolan-2-yl)thiophene
To a solution of thiophene-3-carboxaldehyde (5.0 g, 44.58 mmole) in benzene (200 mL) was added ethylene glycol (25 mL, 445.8 mmole) and p-toluenesulfonic acid hydrate (848 mg, 4.458 mmole). The mixture was heated to reflux under a Dean-Stark trap. After 18 hr the mixture was cooled to RT, washed with saturated NaHCO3 then with H2O, dried (MgSO4), and concentrated under reduced pressure to give the title compound (6.32 g, 91%) as a light amber oil: 1H NMR (400 MHz, CDCl3) δ 7.42 (s,1H), 7.32 (m,1H), 7.16 (m,1H), 5.91 (s,1H),4.12-3.99(m,4H).

reactant | thiophene-3-carboxaldehyde | 44.58 mmole, 5.0 g | S1C=C(C=C1)C=O | C5H4OS
reactant | ethylene glycol | 445.8 mmole, 25 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid hydrate | 4.458 mmole, 848 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 3-(1,3-Dioxolan-2-yl)thiophene | 6.32 g, 91% | O1C(OCC1)C1=CSC=C1 | C7H8O2S
